US06040339
N-{2-t-Butyl-5-[(3-pvridyl)carbonylaminocarbonyl]phenyl}-3-(2,4-dimethoxyphenyl)octanamide (Compound No. 390)
Following a similar procedure to that described in Example 139, but using N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 7) and nicotinamide, the title compound was obtained as crystals.

reactant | N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H37NO5
reactant | nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
product | N-{2-t-Butyl-5-[(3-pvridyl)carbonylaminocarbonyl]phenyl}-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)NC(=O)C=1C=NC=CC1)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C33H41N3O5
